US07678815B2
5-(3,5-Difluoro-phenylamino)-2-methyl-thiazole-4-carboxylic acid (2-hydroxymethyl-pyridin-4-yl)-amide
A microwave vial was charged with 5-bromo-2-methyl-thiazole-4-carboxylic acid (2-hydroxymethyl-pyridin-4-yl)-amide (0.135 g, 0.411 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (0.81 g, 0.140 mmol) and palladium dibenzylideneacetone (Pd2dba3)-chloroform complex (0.044 g, 0.043 mmol). Degassed dioxane (10 ml) was added, followed by 3,5-difluoroaniline (0.064 g, 0.496 mmol) and cesium carbonate (0.271 g, 0.831 mmol) The vial was then irradiated in a microwave oven at 150° C. for 40 min. The mixture was diluted with THF and the solids filtered, washing with THF. The filtrate was evaporated and the residue purified by flash chromatography on silica gel with dichloromethane/methanol 100:0→90:10 gradient to yield the title compound (0.013 g, 8%) as an off-white solid, MS (ISP): m/e=377.4 (M+H+).

reactant | 5-bromo-2-methyl-thiazole-4-carboxylic acid (2-hydroxymethyl-pyridin-4-yl)-amide | 0.411 mmol, 0.135 g | OCC1=NC=CC(=C1)NC(=O)C=1N=C(SC1Br)C | C11H10BrN3O2S
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.140 mmol, 0.81 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | 3,5-difluoroaniline | 0.496 mmol, 0.064 g | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | cesium carbonate | 0.831 mmol, 0.271 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 5-(3,5-Difluoro-phenylamino)-2-methyl-thiazole-4-carboxylic acid (2-hydroxymethyl-pyridin-4-yl)-amide | 0.013 g, 8% | OCC1=NC=CC(=C1)NC(=O)C=1N=C(SC1NC1=CC(=CC(=C1)F)F)C | C17H14F2N4O2S
